US07098212B2
2-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-nicotinic acid
To a solution of 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.10 g, 0.25 mmol), and 2-chloro-nicotinic acid (0.045 g, 0.28 mmol) in dimethylformamide (0.75 mL) were added potassium carbonate (0.084 g, 0.60 mmol), copper (0.0050 g, 0.078 mmol) and copper (I) iodide (0.0050 g, 0.0.026 mmol). The resulting mixture was stirred at 145° C. for 2 hours. The reaction was cooled and diluted with ethyl acetate and washed with water. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. Chromatography on silica gel followed by trituration with methylene chloride/hydrogen chloride in diethyl ether gave the title compound as the hydrochloride salt (0.022 g, LRMS 528.4, 530.4).

reactant | 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.25 mmol, 0.10 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)O | C21H24ClFN2O3
reactant | 2-chloro-nicotinic acid | 0.28 mmol, 0.045 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | potassium carbonate | 0.60 mmol, 0.084 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 0.75 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper | 0.078 mmol, 0.0050 g | [Cu] | Cu
catalyst | copper (I) iodide | 0.0050 g | [Cu]I
product | 2-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-nicotinic acid | ClC=1C=CC(=C(OC2=C(C(=O)O)C=CC=N2)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C27H27ClFN3O5
